US06277993B1
Preparation of 3-(5-methyl-1,2,4-oxadiazol-3-yl)-5-(3-methoxyphenyl)-1,6-naphthyridin-2(1H)-one:
To a solution of acetic acid (0.90 g) in DMF (100 ml) was added N,N′-carbonyldiimidazole (2.43 g) and the mixture was stirred at 70° C. for 3 hours. To the solution was added 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-1,6-naphthyridin-3-amidoxime (3.10 g) prepared in the same manner as described in Example 1(1), and the mixture was stirred at 70° C. for 2 hours and further at 130° C. for 1 hour. The reaction mixture was concentrated to dryness under reduced pressure, and water was added to the residue, and the precipitated crystals were separated by filtration and washed with water, isopropanol and diisopropyl ether in this order and then dried. The resulting crystals were subjected to silica gel column chromatography and eluted with chloroform-methanol (50:1). The resulting crystals were recrystallized from chloroform-ethanol to give the title compound (2.22 g) as colorless crystals. M.p. 286-288° C. Hydrochloride of the title compound, M.p. 281-282° C. (recrystallized from ethanol).

reactant | acetic acid | 0.90 g | C(C)(=O)O | C2H4O2
reactant | 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-1,6-naphthyridin-3-amidoxime | 3.10 g | COC=1C=C(C=CC1)C1=C2C=C(C(NC2=CC=N1)=O)C(N)=NO | C16H14N4O3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(5-methyl-1,2,4-oxadiazol-3-yl)-5-(3-methoxyphenyl)-1,6-naphthyridin-2(1H)-one | 2.22 g | CC1=NC(=NO1)C=1C(NC2=CC=NC(=C2C1)C1=CC(=CC=C1)OC)=O | C18H14N4O3
